* Z:\mnt\design.r\spice\examples\2178.asc
V1 IN 0 {3.3/2} AC 1
R2 N001 IN 301K
XU1 N008 N001 +V 0 N002 LT1178
C1 N002 N001 1000p
R1 N003 N002 86K
XU2 N009 N003 +V 0 N004 LT1178
C2 N004 N003 1000p
R3 N005 N004 121K
XU3 N010 N005 +V 0 N006 LT1178
C3 N006 N005 1000p
R4 N007 N006 221K
XU4 N009 N007 +V 0 OUT LT1178
C4 OUT N007 1000p
R5 N004 N008 301K
R6 OUT N010 121K
R7 N009 +V 50K
R8 0 N009 50K
V2 +V 0 3.3
C5 N009 0 1µ
.ac oct 100 100 10K
.lib LTC.lib
.backanno
.end
